Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
___ Complaint:
head, neck, shoulder pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ female with a right clavicular fracture 
and C1 fracture after a fall yesterday.  Patient was walking 
down one step yesterday with a walker without assistance and 
tripped and fell forward.  She had positive head strike and was 
found laying on her right arm.  Today she was feeling well and 
going about her ADLs including cooking breakfast when her family 
noticed she had bruising on her face.  She then presented to her 
PCP who recommended she go to ___ for further evaluation.  
GCS is 15 and she is pleasant and conversant and energetic.  
Family members at her side.  She lives with her family.  Of note 
she has a history of meningioma status post right craniotomy.  
CT head demonstrates no intracranial bleeding but does show a 2 
x 2.9 cm pre-pontine cistern mass.
 
Past Medical History:
CKD, hypertension, hyperlipidemia, a flutter, osteoporosis, 
hearing loss
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Most recent vitals:
T:98.5 POBP:147 / 77P:57    RR:18 O2 Sat:95%Ra

GCS 15, alert and oriented and pleasant and conversant, very 
hard of hearing 
Bruising over right orbit more so than left, no laceration 
visible
Right shoulder bruising
No chest tenderness or deformity
Mild abdominal tenderness in the left lower quadrant and left 
hip, 
abdomen soft nondistended
Pelvis is stable
Bilateral lower extremity long bones are stable
Mild to moderate lower extremity edema
No tenderness along C, L, T-spine
 
Pertinent Results:
___ 07:45AM BLOOD WBC-6.0 RBC-4.98 Hgb-14.6 Hct-46.2* 
MCV-93 MCH-29.3 MCHC-31.6* RDW-14.1 RDWSD-47.5* Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD ___ PTT-30.1 ___
___ 07:45AM BLOOD Glucose-93 UreaN-16 Creat-1.1 Na-142 
K-4.6 Cl-107 HCO3-24 AnGap-11
___ 09:40PM BLOOD LD(___)-312*
___ 07:45AM BLOOD Calcium-9.8 Phos-2.4* Mg-1.9

CT T-SPINE W/O CONTRASTStudy Date of ___ 10:44 ___
1. Known right distal clavicular comminuted fracture better 
assessed on same
day CT chest.  Right supraclavicular fat stranding without 
underlying hematoma
consistent with sequelae of known clavicular injury.
2. Otherwise, no evidence of additional acute fracture or 
traumatic
malalignment.

MR HEAD W/O CONTRASTStudy Date of ___ 3:14 AM
1. 1.7 x 2.3 x 2.8 cm mass in the pre medullary cistern likely 
represents a
meningioma.  Moderate mass effect on the medulla.  No 
hydrocephalus or
herniation.
2. No evidence of infarction or hemorrhage.

MR CERVICAL SPINE W/O CONTRASTStudy Date of ___ 3:15 AM
1. No evidence of ligamentous injury.  No bone marrow edema or 
evidence of an
acute fracture.
2. Moderate to severe multilevel degenerative changes as 
described above, more
pronounced at C1-C2 with severe left neural foraminal narrowing, 
C5-C6, C6-C7,
and T1-T2.
3. Partially evaluated extra-axial mass in the pre medullary 
cistern, better
assessed on the same day MRI.
 
Brief Hospital Course:
The patient presented to the Emergency Department on ___.  
Patient was transferred from OSH and upon her arrival to ED was 
found to have a right clavicular fracture and C1 fracture due to 
her fall.  Given findings, the patient was managed 
nonoperatively.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with  oral, non-opiod pain 
medication, and lidocaine patches on her shoulder.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO.  On ___ the 
diet was advanced to a Regular diet, which was well tolerated. 
Patient's intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
The patient was seen by both OT and ___ who recommended return 
home with ___ services for continued ___, but only if she would 
have ___ full assist at home, and if not rehab would be better 
for her given her fall risk. Prior to discharge, I spoke very 
extensively with the patient's son and grandson about her fall 
risk and need for max assist whenever ambulating, and they were 
very confident they would be able to provide her with the 
support she needed at home.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. aMILoride 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
Do not exceed 4000mg or take with alcohol.  
2.  Lidocaine 5% Patch 1 PTCH TD QAM R clavicle fx  
3.  aMILoride 2.5 mg PO DAILY  
4.  amLODIPine 2.5 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atenolol 25 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
C1 spine fracture, Clavicular fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ and 
underwent monitoring and treatment for your injuries (cervical 
spine fracture and right clavicular fracture) you sustained from 
your fall. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

Continue to wear hard c-collar until follow up 

Follow up with Dr. ___ in 6 weeks with AP/lateral C-spine XR
to re-evaluate. Patient may call ___ to schedule this
appointment.

Call to schedule follow up with Dr. ___ in 2 weeks.
Orthopedic trauma clinic
Phone:  ___ 

 
 
Followup Instructions:
___